US07820699B2
64.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 4-methoxy-benzoic acid to give (R)-3-[(4-methoxy-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester. Yellow oil. MS 335.1 ([M+H]+)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-methoxy-benzoic acid | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
product | (R)-3-[(4-methoxy-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(C1=CC=C(C=C1)OC)=O | C18H26N2O4
